US05852031
A solution of 0.53 g (1.38 mmol) of 1-[(7R,9aS)-2-BOC-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazin-7-ylmethyl]-1,3-dihydro-indol-2-one in 10 mL of chloroform was treated with excess HCl(g) in ethyl ether and stirred at room temperature for 1 h. The solvent was evaporated to give 0.49 g (100%) of 1-[(7R,9aS)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazin-7-ylmethyl]-1,3-dihydro-indol-2-one dihydrochloride.

reactant | 1-[(7R,9aS)-2-BOC-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazin-7-ylmethyl]-1,3-dihydro-indol-2-one | 1.38 mmol, 0.53 g | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)CN2C(CC1=CC=CC=C21)=O | C22H31N3O3
reactant | HCl | Cl | ClH
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-[(7R,9aS)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazin-7-ylmethyl]-1,3-dihydro-indol-2-one dihydrochloride | 0.49 g, 100% | Cl.Cl.C1[C@H]2N(CCN1)C[C@@H](CC2)CN2C(CC1=CC=CC=C21)=O | InChI=1S/C17H23N3O.2ClH/c21-17-9-14-3-1-2-4-16(14)20(17)12-13-5-6-15-10-18-7-8-19(15)11-13;;/h1-4,13,15,18H,5-12H2;2*1H/t13-,15+;;/m1../s1
